US07482335B2
A sample of benzyl (1S,2R,4R)-4-methoxy-2-(trityloxymethyl)cyclohexylcarbamate (0.53 g) was dissolved in a mixture of 70% aqueous acetic acid (10 mL) and MeCN (10 mL) and stirred at 60° C. for 2 h. Reaction mixture was cooled and evaporated. Dissolved in EtOAc and washed with saturated NaHCO3 followed by brine and then dried (MgSO4). Filtered, concentrated and chromatographed to get benzyl (1S,2R,4R)-2-(hydroxyl methyl)-4-methoxycyclohexylcarbamate (0.24 g, yield=83%) as a clear oil. MS found: (M+H)+=294.29

reactant | benzyl (1S,2R,4R)-4-methoxy-2-(trityloxymethyl)cyclohexylcarbamate | 0.53 g | CO[C@H]1C[C@H]([C@H](CC1)NC(OCC1=CC=CC=C1)=O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H37NO4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | MeCN | 10 mL | CC#N | C2H3N
product | benzyl (1S,2R,4R)-2-(hydroxyl methyl)-4-methoxycyclohexylcarbamate | 0.24 g, yield=83% | OC[C@H]1[C@H](CC[C@H](C1)OC)NC(OCC1=CC=CC=C1)=O | C16H23NO4
